US06638945B1
3-BOCamino-4-chloro-6,7-dimethoxyquinoline (18 g) was dissolved in trifluoroacetic acid (200 ml) with stirring, triethylsilane (80 ml) was then added. Stirred at room temperature for 2 hours. Evaporated. The dark red oily residue was treated with ice/water and carefully basified with 880 ammonia. The resulting red gum was scratched and stirred upon which it slowly solidified. Solid was filtered off and washed with water. Dried to give 3-amino-4-chloro-6,7-dimethoxyquinoline (7 g). On standing overnight more solid came out of the filtrate this was filtered off washed with water and dried to give 3-amino-4-chloro-6,7-dimethoxyquinoline (3.5 g) (Total yield 83%).

reactant | 3-BOCamino-4-chloro-6,7-dimethoxyquinoline | 18 g | C(=O)(OC(C)(C)C)NC=1C=NC2=CC(=C(C=C2C1Cl)OC)OC | C16H19ClN2O4
reactant | triethylsilane | 80 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-amino-4-chloro-6,7-dimethoxyquinoline | 7 g | NC=1C=NC2=CC(=C(C=C2C1Cl)OC)OC | C11H11ClN2O2
